US04255332
Lithium clavulanate (21.9 g, estimated purity 67% as pure free acid, 3/40 mole) was stirred in distilled water (135 mls) and isopropanol added (108 mls) with stirring and cooling in an ice bath. The supernatant liquid was decanted off the gummy precipitate (6.0 gm) and a solution (37.8 mls 1.5 eq) of 1 M potassium orthophosphate added slowly with about 20 mg lithium phosphate for seeding. As lithium phosphate separated the pH changed from 8.2 to 7.1 ending up at 7.65 on total addition. The mixture was made up to 500 mls with acetone and filtered and the clear yellow filtrate was divided into 3 equal portions. Portion 1 was made up to 600 mls with acetone, filtered via celite (2 gm) and added to 2.4 liters acetone slowly with stirring. The white solid was filtered off, washed with acetone and fluid bed dried to give potassium clavulanate (4.94 g, 82.1% pfa, 83% recovery). Portion 2 was made up to 800 mls, filtered as above and added to 2.2 l acetone. The solid was filtered off and dried to give potassium clavulanate (4.88 g, 81.9% pfa, 82% recovery). Portion 3 was made up to 1000 mls, filtered as above and added to 2 l acetone. The solid was filtered off and dried to give potassium clavulanate (4.84 g, 82.3 pfa, 82% recovery).

reactant | Lithium clavulanate | 40 mole, 21.9 g | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | potassium orthophosphate | 1 M, 37.8 mls, 1.5 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | lithium phosphate | about 20 mg | P(=O)([O-])([O-])[O-].[Li+].[Li+].[Li+]
solvent | water | 135 mls | O | H2O
product | potassium clavulanate | 4.94 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
